data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cc(Cl)ccc1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(Cl)ccc1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(Cl)ccc1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cc(Cl)ccc1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cc(Cl)ccc1F)C2(C)C", "products": "C[C+]1C2(c3cc(Cl)ccc3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cc(Cl)ccc3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cc(Cl)ccc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(Cl)ccc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(Cl)ccc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(Cl)ccc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cc(Cl)ccc2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cc(Cl)ccc2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cc(Cl)ccc3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cc(Cl)ccc3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cc(Cl)ccc3F)C1(C)OC2=O.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CF)c([Si](C)(C)C)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C", "products": "COc1c2c(cc([Si](C)(C)CF)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1C", "products": "Cc1ccccc1C(Cl)O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cc(F)cc(Cl)c1)C1C2CCC1C2", "products": "[O][C](c1cc(F)cc(Cl)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1cc(F)cc(Cl)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cc(F)cc(Cl)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cc(F)cc(Cl)c1", "products": "OC(=CC1C=CCC1)c1cc(F)cc(Cl)c1"}, {"reactants": "OC(=CC1C=CCC1)c1cc(F)cc(Cl)c1", "products": "O=C(CC1C=CCC1)c1cc(F)cc(Cl)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CCl)c([Si](C)(C)C)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C", "products": "Cc1c2c(cc([Si](C)(C)CCl)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(F)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(F)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(F)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(F)C(F)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(OC)c(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1ccc(OC)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1ccc(OC)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1OC", "products": "COc1ccc(OC)c(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "COc1ccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "COc1ccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccc(OC)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccc(OC)cc1", "products": "COc1ccc(C(F)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
